US07893085B2
7-Fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester
A mixture of 3-amino-7-fluoro-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester (360 mg, 1.5 mmol), trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester (411 mg, 1.3 mmol), Pd2 dba3 (69 mg, 0.075 mmol), Xantphos (86 mg, 0.15 mmol) and Cs2CO3 (685 mg, 2.1 mmol) in toluene (6 ml) was subjected to microwave irradiation at 160° C. for 20 minutes. The reaction mixture was filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure to give a residue which was subjected to flash chromatography (Si-SPE, pentane:diethyl ether, gradient 100:0 to 90:10) to give the title compound as a yellow solid (338 mg, 55%). LCMS (method B): RT=5.20 min, M+H+=407.

reactant | 3-amino-7-fluoro-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.5 mmol, 360 mg | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)N | C10H9FN2O2S
reactant | trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 1.3 mmol, 411 mg | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
reactant | Xantphos | 0.15 mmol, 86 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 2.1 mmol, 685 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.075 mmol, 69 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 7-Fluoro-3-(2-fluoro-4-trimethylsilanyl-phenylamino)-thieno[3,2-c]pyridine-2-carboxylic acid ethyl ester | 338 mg, 55% | C(C)OC(=O)C1=C(C=2C=NC=C(C2S1)F)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C19H20F2N2O2SSi
